* Z:\mnt\design.r\spice\examples\3886-1.asc
V1 IN 0 30
C1 0 N001 1µ
M§Q1 IN N002 N004 N004 RJK0305DPB
M§Q2 N004 N008 0 0 RJK0301DPB
L1 N007 OUT0 6.82µ
C2 N005 N004 0.1µ
D1 N001 N005 CMDSH2-3
C3 N011 OUT0 0.22µ
R1 N007 N011 7.5K
C5 OUT1 0 530µ
R2 OUT1 0 0.33
M§Q3 IN N003 N007 N007 RJK0305DPB
M§Q4 N007 N009 0 0 RJK0301DPB
L2 N004 OUT1 3.1µ
C7 N006 N007 0.1µ
D2 N001 N006 CMDSH2-3
C8 N010 OUT1 0.22µ
R11 N004 N010 6.81K
C9 OUT0 0 530µ
R12 OUT0 0 2
R14 N017 N018 10K
R15 N021 N017 4.99K
R16 N016 N020 24.9K
R17 0 N016 11.3K
R18 N017 N019 10K
C14 N020 0 1µ
C15 N017 0 1µ
C4 N013 0 220p
C6 N015 0 2.2n
C10 N012 0 220p
C11 N014 0 4.7n
XU1 OUT0 0 N010 OUT1 N015 N011 OUT0 N021 NC_01 N013 N012 MP_02 MP_03 N019 N018 MP_04 N016 NC_05 NC_06 MP_07 MP_08 N020 MP_09 MP_10 N017 N014 OUT1 MP_11 N004 N002 N005 N008 N001 0 IN N009 N006 N003 N007 MP_12 0 LTC3886-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTC3887. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\nMFR_Voff_Thres to PWM off has a 90ms to 300ms delay.  This delay is set to 0ms in the model.\nOutput OV and UV setpoints are defaulted to +/-10%.\n \n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet. FREQ_CFG \n                pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                                                      14V; value 1 for 7V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                           for low 50mV, and 1 for high 75mV;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;\n     gm0, gm1 -- in A/V, sets the transconductance of the error amplifier\n     Rth0, Rth1 -- in ohms, sets the value of resistor in series with compensation \n                           capacitor on pin IthR0 (or IthR1)\n     MFR_Voff0_Thres, MFR_Voff1_Thres -- in V, sets threshold at which PWM\n                            is allowed to turn off
.lib LTC3886-1.sub
.backanno
.end
